US07138425B2
c) 2-[2-Methoxy-5-[5-(2,3-dichlorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-amino-4-methoxyphenyl)-5-(2,3-dichlorophenyl)benzoxazole (238 mg, 0.60 mmol) and 1,2,4-benzenetricarboxylic anhydride (119 mg, 0.60 mmol) the title compound was obtained (191 mg, 57%). 1H NMR (DMSO) δ 8.46(dd, 1H), 8.35(m, 3H), 8.13(d, 1H), 7.84(m, 2H), 7.70(m, 1H), 7.47(m, 4H), 3.87(s, 3H). MS 560 m/z (M+H)+.

reactant | 2-(3-amino-4-methoxyphenyl)-5-(2,3-dichlorophenyl)benzoxazole | 0.60 mmol, 238 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=C(C(=CC=C2)Cl)Cl | C20H14Cl2N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.60 mmol, 119 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methoxy-5-[5-(2,3-dichlorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C2=C(C(=CC=C2)Cl)Cl)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H16Cl2N2O6
